.TITLE WaterAlarm
U1 nc_0 nc_1 nc_2 nc_3 nc_4 nc_5 nc_6 0 nc_7 nc_8 nc_9 nc_10 nc_11 net_4 net_5 ULN2003A
U2 net_4 net_8 0 nc_12 0 nc_13 0 nc_14 0 nc_15 0 nc_16 0 vcc SN74HC04
U3 net_7 net_6 0 nc_17 0 nc_18 0 nc_19 0 nc_20 0 nc_21 0 vcc CD4069
U4 net_7 net_8 net_5 nc_22 0 0 vcc 0 0 0 nc_23 0 0 nc_24 vcc CD4043
D1 net_7 nc_25 D_LED
D2 net_6 nc_26 D_LED
R1 net_5 vcc 10000.0
R2 net_4 vcc 10000.0
V_Rail_0 vcc 0 DC 5.0
V_Rail_1 vcc 0 DC 5.0
.LIB spice-models.lib
.END
